US08026236B2
A mixture of 6-chloro-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (0.75 g), 4-(2-hydroxyethoxy)-3-(trifluoromethyl)phenylboronic acid (1.46 g), tris(dibenzylideneacetone)dipalladium (0.18 g), tricyclohexylphosphine (0.13 g) and tribasic potassium phosphate (1.65 g) in dioxane (7.5 ml) and water (3 ml) was heated at 100° C. under N2 for 3 hours. The mixture was then diluted with ethyl acetate (100 ml), organic layer seperated and solvent removed under reduced pressure, the residue was then columned on silica gel using DCM-MeOH (3%) as eluant to give 6-[4-(2-hydroxyethoxy)-3-(trifluoromethyl)-phenyl]-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (1.07 g).

reactant | 6-chloro-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.75 g | ClC1=CC2=C(C(=N1)C#N)N=CN2C | C8H5ClN4
reactant | 4-(2-hydroxyethoxy)-3-(trifluoromethyl)phenylboronic acid | 1.46 g | OCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C9H10BF3O4
reactant | tricyclohexylphosphine | 0.13 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 1.65 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 7.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.18 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-[4-(2-hydroxyethoxy)-3-(trifluoromethyl)-phenyl]-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 1.07 g | OCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C17H13F3N4O2
